US07741325B2
Preparation 4: 7,9-Dihydroxydibenzo[b,g][1,5]naphthyridin-6(11H)-one
3.5 g of 1,3,5-trihydroxybenzene and 62.5 mg of paratoluenesulphonic acid are added to a solution of 5 g of ethyl 3-amino-2-quinolinecarboxylate in 50 ml of heptan-1-ol. The mixture is stirred for 48 hours at reflux using a Dean Stark apparatus and then the reaction mixture is concentrated in vacuo. Chromatography on silica gel (cyclohexane/acetone 90/10) allows 5.2 g of the expected product to be isolated.

reactant | 1,3,5-trihydroxybenzene | 3.5 g | OC1=CC(=CC(=C1)O)O | C6H6O3
reactant | paratoluenesulphonic acid | 62.5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl 3-amino-2-quinolinecarboxylate | 5 g | NC=1C(=NC2=CC=CC=C2C1)C(=O)OCC | C12H12N2O2
solvent | heptan-1-ol | 50 ml | C(CCCCCC)O | C7H16O
product | 7,9-Dihydroxydibenzo[b,g][1,5]naphthyridin-6(11H)-one | OC1=CC(=CC=2NC=3C=C4C(=NC3C(C21)=O)C=CC=C4)O | C16H10N2O3
